US03993660
In the manner given in Example 3, a mixture of 4-ethoxy-5-isopropyl-3'-methylthio-2-[3-(hydroxymethyl)-5-phenyl-4H-1,2,4-triazol-4-yl]benzophenone, phthalimide and triphenylphosphine in tetrahydrofuran was treated with diethyl azodicarboxylate to give 4-ethoxy-5-isopropyl-3'-methylthio-2-[3-(phthalimidomethyl)-5-phenyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 4-ethoxy-5-isopropyl-3'-methylthio-2-[3-(hydroxymethyl)-5-phenyl-4H-1,2,4-triazol-4-yl]benzophenone | C(C)OC1=CC(=C(C(=O)C2=CC(=CC=C2)SC)C=C1C(C)C)N1C(=NN=C1C1=CC=CC=C1)CO | C28H29N3O3S
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-ethoxy-5-isopropyl-3'-methylthio-2-[3-(phthalimidomethyl)-5-phenyl-4H-1,2,4-triazol-4-yl]benzophenone | C(C)OC1=CC(=C(C(=O)C2=CC(=CC=C2)SC)C=C1C(C)C)N1C(=NN=C1C1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C36H32N4O4S
